US05223498
1-(2-morpholinophenyl)thiourea (10.5 g) was suspended in boiling water (80 ml) and a solution of potassium hydroxide (25.2 g) in hot water (70 ml) was added. The mixture was heated to 90°0 C. and aliquot portions of a hot solution of lead acetate trihydrate (17.5 g) in water (80 ml) added and the mixture heated under reflux for 10 minutes and cooled to ambient temperature. The mixture was filtered and the filtrate acidified with acetic acid to pH 6. The solid which formed was separated by filtration, washed with water and recrystallised from ethylacetate to give N-(2-morpholinophenyl)cyanamide (m.p. 175°-176° C.).

reactant | 1-(2-morpholinophenyl)thiourea | 10.5 g | O1CCN(CC1)C1=C(C=CC=C1)NC(=S)N | C11H15N3OS
reactant | potassium hydroxide | 25.2 g | [OH-].[K+]
reactant | lead acetate trihydrate | 17.5 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
solvent | water | 70 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | water | 80 ml | O | H2O
product | N-(2-morpholinophenyl)cyanamide | O1CCN(CC1)C1=C(C=CC=C1)NC#N | C11H13N3O
